US06034238
2c) ((S)-4-(4-(Amino-hydroximino-methyl)phenyl)-3-(2-naphthylmethyl)-4-methyl-2,5-dioxoimidazolidin-1-yl)acetic acid
2 g (3.4 mmol) of 2-naphthylmethyl ((S)-4-(4-(amino-hydroximino-methyl)phenyl)-3-(2-naphthylmethyl)-4-methyl-2,5-dioxoimidazolidin-1-yl)acetate in 200 ml of absolute methanol were hydrogenated over palladium hydroxide/barium sulfate for 4 h. The catalyst was filtered off, the filtrate was concentrated in vacuo and the residue was stirred with ethyl acetate. The product was filtered off with suction and dried in a high vacuum. 0.56 g (37%) of the title compound was obtained.

reactant | 2-naphthylmethyl ((S)-4-(4-(amino-hydroximino-methyl)phenyl)-3-(2-naphthylmethyl)-4-methyl-2,5-dioxoimidazolidin-1-yl)acetate | 3.4 mmol, 2 g | NC(C1=CC=C(C=C1)[C@@]1(N(C(N(C1=O)CC(=O)OCC1=CC2=CC=CC=C2C=C1)=O)CC1=CC2=CC=CC=C2C=C1)C)=NO | C35H30N4O5
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium hydroxide barium sulfate | [OH-].[Pd+2].[OH-].S(=O)(=O)([O-])[O-].[Ba+2]
product | ((S)-4-(4-(Amino-hydroximino-methyl)phenyl)-3-(2-naphthylmethyl)-4-methyl-2,5-dioxoimidazolidin-1-yl)acetic acid | 0.56 g, 37% | NC(C1=CC=C(C=C1)[C@@]1(N(C(N(C1=O)CC(=O)O)=O)CC1=CC2=CC=CC=C2C=C1)C)=NO | C24H22N4O5
